US04585774
3.3 Grams of p-methoxycarbonyl-α-(1-piperazinyl)acetanilide and 1.7 g of potassium carbonate were dissolved in 50 ml of DMF, then a methylene chloride solution containing 2.7 g of 3,4-dimethoxybenzoyl chloride was added dropwise thereto under ice-cooled condition with stirring. The reaction was continued at the same temperature for 2 hours, then to the reaction mixture was added 100 ml of methylene chloride, and the methylene chloride layer was washed with water, 5%-sodium bicarbonate aqueous solution, next with potassium carbonate aqueous solution, and was dried. Methylene chloride was removed by distillation, the residue obtained was purified by a silica gel column chromatography to obtain 3.3 g of p-methoxycarbonyl-α-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide in the form of oily substance.

reactant | p-methoxycarbonyl-α-(1-piperazinyl)acetanilide | COC(=O)C1=CC=C(NC(CN2CCNCC2)=O)C=C1 | C14H19N3O3
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | 3,4-dimethoxybenzoyl chloride | 2.7 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | p-methoxycarbonyl-α-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide | 3.3 g | COC(=O)C1=CC=C(NC(CN2CCN(CC2)C(C2=CC(=C(C=C2)OC)OC)=O)=O)C=C1 | C23H27N3O6
